US03951980
3-(N-Ethylcarbamyl)-8-methyl-3,8-diazabicyclo[3.2.1]octane
8-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride (2.5 g, 0.0126 mole), prepared as described in Example 1, was reacted with 2.0 ml (0.0253 mole) ethyl isocyanate according to the procedure described above for 3-(N,N-diethylcarbamyl)-8-methyl-3,8-diazabicyclo[3.2.1]octane in Example 1. A white monohydrochloride, melting point 246°-250° C (dec.) was obtained in 79% yield: 2.33 g.

reactant | 8-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride | 0.0126 mole, 2.5 g | Cl.Cl.CN1C2CNCC1CC2
reactant | ethyl isocyanate | 0.0253 mole, 2.0 ml | C(C)N=C=O | C3H5NO
reactant | 3-(N,N-diethylcarbamyl)-8-methyl-3,8-diazabicyclo[3.2.1]octane | C(C)N(C(=O)N1CC2CCC(C1)N2C)CC | C12H23N3O
product | 3-(N-Ethylcarbamyl)-8-methyl-3,8-diazabicyclo[3.2.1]octane | 79% yield | C(C)NC(=O)N1CC2CCC(C1)N2C | C10H19N3O
